* C:\Users\b59mi\Documents\Business\4th Year Engineering\Semester 1\ECE490\Analog-Drum-Machine\Mixer\Mixer.asc
XU1 0 N001 vdd! -vdd! Out OP77
C1 0 vdd! 100n
C2 Out N001 47p
R1 N002 N001 22k
R3 N001 N003 47k
R4 0 Out 22k
R2 Out N002 100k
V1 vdd! 0 15V
V2 N003 0 wavefile=Basic_Rock_135.wav
V3 0 -vdd! 15V
.tran 0 1s 0
.lib ADI.lib
.backanno
.end
